US06727264B1
1-PHENYL-6-(TRIFLUOROMETHYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-(trifluoromethyl)-1H-indole and iodobenzene: ESMS m/e: 262.0 (M+H)+.

reactant | 6-(trifluoromethyl)-1H-indole | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-PHENYL-6-(TRIFLUOROMETHYL)-1H-INDOLE | C1(=CC=CC=C1)N1C=CC2=CC=C(C=C12)C(F)(F)F | C15H10F3N
